US06348474B1
6-(4,5-Dihydro-4,4-dimethyloxazol-2-yl)-4-(4-phenylbenzyl)quinoline
A mixture of 1-ethoxycarbonyl-6-(4,5-dihydro-4,4-dimethyloxazol-2-yl)-2-dimethoxyphosphoryl-4-(4-phenylbenzyl)-1,2-dihydroquinoline (738 mg), ethanol (20 ml) and 1N aqueous sodium hydroxide solution (4 ml) was refluxed under heating for 2 hr. The reaction mixture was concentrated to dryness under reduced pressure. Water was added and the mixture was extracted twice with ethyl acetate. The organic layers were combined, washed once with saturated brine, dried over anhydrous magnesium sulfate and concentrated to dryness under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate) to give the objective compound (140 mg) as a white solid.

reactant | 1-ethoxycarbonyl-6-(4,5-dihydro-4,4-dimethyloxazol-2-yl)-2-dimethoxyphosphoryl-4-(4-phenylbenzyl)-1,2-dihydroquinoline | 738 mg | C(C)OC(=O)N1C(C=C(C2=CC(=CC=C12)C=1OCC(N1)(C)C)CC1=CC=C(C=C1)C1=CC=CC=C1)P(=O)(OC)OC | C32H35N2O6P
reactant | sodium hydroxide | 1N, 4 ml | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 6-(4,5-Dihydro-4,4-dimethyloxazol-2-yl)-4-(4-phenylbenzyl)quinoline | 140 mg | CC1(N=C(OC1)C=1C=C2C(=CC=NC2=CC1)CC1=CC=C(C=C1)C1=CC=CC=C1)C | C27H24N2O
